2190-10-21 07:21:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Pt reports feeling well this morning.  Chest pain/pressure now improved
   --> 3/10 intensity.  Still complains of mild shortness of breath.  No
   palpitations or dizziness.  Otherwise asymptomatic.  Has been in NSR
   overnight with no episodes SVT.
   Pericardial drain did not drain anything.  10 cc in bag, flushes but
   does not aspirate.
   Pericardial fluid:
   OTHER BODY FLUID ANALYSIS
                                     WBC
                                     RBC
                                    Polys
                                   Lymphs
                                    Monos
   [1][**2190-10-20**] 12:45PM
                                    600*
                                   [**Numeric Identifier 10220**]*
                                     48*
                                     37*
                                     15*
   PERICARDIAL FLUID
   OTHER BODY FLUID CHEMISTRY
                                   TotProt
                                   Glucose
                                   LD(LDH)
                                   Amylase
                                   Albumin
   [2][**2190-10-20**] 12:45PM
                                     4.9
                                     96
                                    1569
                                     35
                                     3.1
   PERICARDIAL FLUID
Gram stain: 1+ PMNs, no organisms.
Cx pending.
   Allergies:
   Paxil (Oral) (Paroxetine Hcl)
   Unknown;
   Benadryl (Oral) (P-Ephed Hcl/Dp-Hydram Hcl)
   Unknown;
   Buspar (Oral) (Buspirone Hcl)
   Unknown;
   Levaquin (Oral) (Levofloxacin)
   Unknown;
   Adhesive Tape (Topical)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-10-21**] 07:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.3
C (99.1
   HR: 79 (79 - 102) bpm
   BP: 108/70(79) {78/15(40) - 130/71(82)} mmHg
   RR: 16 (16 - 29) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
                  Total In:
                                                                    440 mL
                  PO:
                                                                    440 mL
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                  1,050 mL
                                                                    400 mL
   Urine:
                                                                  1,050 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -610 mL
                                                                   -400 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula 3L
   SpO2: 94%
   ABG: ///29/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: no LAD
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), No murmurs,
   rubs or gallops appreciated
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ),
   scattered expiratory wheezes
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   664 K/uL
   8.9 g/dL
   108 mg/dL
   0.6 mg/dL
   29 mEq/L
   4.3 mEq/L
   13 mg/dL
   105 mEq/L
   140 mEq/L
   27.9 %
   8.9 K/uL
        [image002.jpg]
                             [**2190-10-21**]  03:44 AM
   WBC
   8.9
   Hct
   27.9
   Plt
   664
   Cr
   0.6
   Glucose
   108
   Other labs: Ca++:8.4 mg/dL, Mg++:2.2 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   66 y/o lady with h/o SVT presented with moderate pericardial effusion
   with impaired ventricular filling, s/p placement of pericardial
   drain.
   .
   # Pericardial Effusion/PUMP: Outpatient TTE [**10-19**] showed moderate
   pericardial effusion with impaired ventricular filling. Pericardial
   drain was placed this AM without complications.  Patient currently
   asymptomatic, with mild pleuritic chest pain with palpation.
   - if RA pressure increase (currently 20) or BP drops will need further
   pericardiocentesis
   - keep drain in place for 24 hours
   - follow up repeat TTE -> if no re-accumulation, will remove drain
   - f/u Blood cultures
   - f/u pericardial fluid studies and cultures
   - hold off on starting until cultures back or patient spikes
   - continue Vicodin PRN for pain control
   .
   # RHYTHM: Currently in sinus rhthm. History of SVT with evidence of
   left lateral bypass tract and pre-excitation. Incomplete ablation
   procedure on last admission.
   - monitor on tele
   - continue atenolol 25mg po daily
   .
   .
   # CORONARIES: No known CAD. Her current chest pain is most likely due
   to hemopericardium.  History of hyperlipidemia
   - continue simvastatin
   - continue ASA 81mg
   .
   # Leukocytosis: WBC 13.5. Patient afebrile. Without cough, diarrhea, or
   dysuria. This may be secondary to pericardial effusion.
   -WBC 13.5
 8.9 today
   -prophylactic Keflex s/p pericardial drain
   -blood cultures pending
   - UA pending
   .
   # Normocytic Anemia: HCT 30.2.  HCT around this level during last
   admission, however prior to [**10-8**], HCT of 39. Patient has been
   feeling weak overall for the past 10 days.
   -guaiac stools
   -iron studies pending
   .
   # Anxiety: continue Xanax per outpatient regimen. Ambien for sleep.
   .
   # H/o breast CA and papillary bladder CA:
   - needs outpatient follow up.
   .
   FEN: Cardiac heart healthy diet, replete lytes prn
   .
   ACCESS: PIV
   .
   PROPHYLAXIS:
   -DVT ppx: pneumoboots
   .
   CODE: Full Code
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2190-10-20**] 01:37 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
References
   1. JavaScript:parent.POPUP(self,%22_WEBTAG=_14%22);
   2. JavaScript:parent.POPUP(self,%22_WEBTAG=_15%22);

2190-10-22 07:53:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2190-10-21**] 02:47 PM
 PERICARDIAL DRAIN REMOVED - At [**2190-10-21**] 04:30 PM
   [**2190-10-21**]
   - Pt had ECHO which showed small pericardial effusion. Pericardial
   drain removed without event. Pt called out to [**Hospital Ward Name 289**] 3 but still in CCU
   due to lack of beds.  Colchicine started in AM. Rpt ECHO planned for
   [**10-22**], if no significant reaccumulation then Pt can likely be d/c to
   home. Pt ambulating comfortably, had 6 beats of Vtach last night around
   19:30.
   Patient feels well, ready to go home. Denies CP but has mild irritation
   since drain was removed last night, well controlled on current pain
   regimen. Denies N/V, abdominal pain, dizziness, fever/chills, SOB,
   tolerating room air. Denies palpitations yesterday during beats of WCT.
   Allergies:
   Paxil (Oral) (Paroxetine Hcl)
   Unknown;
   Benadryl (Oral) (P-Ephed Hcl/Dp-Hydram Hcl)
   Unknown;
   Buspar (Oral) (Buspirone Hcl)
   Unknown;
   Levaquin (Oral) (Levofloxacin)
   Unknown;
   Adhesive Tape (Topical)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-10-22**] 07:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 90 (71 - 97) bpm
   BP: 100/47(60) {85/33(47) - 133/79(93)} mmHg
   RR: 24 (16 - 28) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
                  Total In:
                                                                    770 mL
                  PO:
                                                                    770 mL
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                  1,825 mL
                                                                    600 mL
   Urine:
                                                                  1,825 mL
                                                                    600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,055 mL
                                                                   -600 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ////
   Physical Examination
   General: AAO, NAD
   HEENT: NC, AT, pupils equal, no JVP elevationi appreciated
   CVS: RRR, nml S1 and S2, no m/r/g
   Pulm: CTA-B
   Abdomen: soft, NT, ND, NABS
   Extremities: warm, no c/c/e
   Peripheral Vascular: PT pulses 1+ b/l
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   729 K/uL
   9.2 g/dL
   108 mg/dL
   0.6 mg/dL
   29 mEq/L
   4.3 mEq/L
   13 mg/dL
   105 mEq/L
   140 mEq/L
   30.4 %
   9.8 K/uL
        [image002.jpg]
                             [**2190-10-21**]  03:44 AM
                             [**2190-10-22**]  06:30 AM
   WBC
   8.9
   9.8
   Hct
   27.9
   30.4
   Plt
   664
   729
   Cr
   0.6
   Glucose
   108
   Other labs: Ca++:8.4 mg/dL, Mg++:2.2 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   66 y/o lady with h/o SVT presented with moderate pericardial effusion
   with impaired ventricular filling, s/p placement of pericardial
   drain.
   .
   # Pericardial Effusion/PUMP: Outpatient TTE [**10-19**] showed moderate
   pericardial effusion with impaired ventricular filling. Pericardial
   drain was placed this AM without complications.  Patient currently
   asymptomatic, with mild pleuritic chest pain with palpation.
   - if RA pressure increase (currently 20) or BP drops will need further
   pericardiocentesis
   - drain removed w/o difficulty
   - follow up repeat TTE this morning
   - f/u Blood cultures
   - f/u pericardial fluid studies and cultures
   - hold off on starting antibiotics until cultures back or patient
   spikes
   - continue colchicine and Vicodin PRN for pain control
   .
   # RHYTHM: Currently in sinus rhthm. History of SVT with evidence of
   left lateral bypass tract and pre-excitation. Incomplete ablation
   procedure on last admission. Few beats of WCT around 19:30 last night
   - monitor on tele
   - continue atenolol 25mg po daily
   .
   # CORONARIES: No known CAD. Her current chest pain is most likely due
   to hemopericardium.  History of hyperlipidemia
   - continue simvastatin
   - continue ASA 81mg
   .
   # Leukocytosis: WBC 13.5. Patient afebrile. Without cough, diarrhea, or
   dysuria. This may be secondary to pericardial effusion.
   -WBC 13.5
 9.8 today
   -prophylactic Keflex s/p pericardial drain finished
   -blood cultures pending
   - UA pending
   .
   # Normocytic Anemia: HCT 30.4.  HCT around this level during last
   admission, however prior to [**10-8**], HCT of 39. Patient has been
   feeling weak overall for the past 10 days.
   -guaiac stools
   -iron studies c/w anemia of chronic disease (TIBC low 237, ferritin
   elevated at 659, transferrin 182)
   .
   # Anxiety: continue Xanax per outpatient regimen. Ambien for sleep.
   .
   # H/o breast CA and papillary bladder CA:
   - needs outpatient follow up.
   .
   FEN: Cardiac heart healthy diet, replete lytes prn
   .
   ACCESS: PIV
   .
   PROPHYLAXIS:
   -DVT ppx: pneumoboots
   .
   CODE: Full Code
   .
   DISPO: floor status, likely d/c to home today
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2190-10-20**] 01:37 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: